US06808766B1
Under argon gas atmosphere, 2.03 g (10.0 mmol) of isophthalic acid dichloride and 2.48 g (10.0 mmol) of 4,4′-diaminodiphenylsulfone were each dissolved to the concentration of 1.0 mol/l in NMP, and mixed at −78° C. and frozen. The liquid solution was gradually heated to room temperature to melt and stirred for three hours at room temperature. Reaction liquid solution thus obtained was diluted with 35 ml of NMP and then poured into excess methanol, and polymer precipitated were filtered and dried. The procedures described above were repeated and purified, and 4.19 g of polyamide shown in the structural formula PA-14 was obtained. Number-average molecular weight and weight-average molecular weight of PA-14 obtained through the gel permeation chromatography were 3.98×103 and 8.18×103, respectively.

reactant | isophthalic acid dichloride | 10.0 mmol, 2.03 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | 4,4′-diaminodiphenylsulfone | 10.0 mmol, 2.48 g | C1=CC(=CC=C1N)S(=O)(=O)C2=CC=C(C=C2)N | C12H12N2O2S
reactant | methanol | CO | CH4O
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | NMP | 35 ml | CN1CCCC1=O | C5H9NO
product | PA-14 | CCCCCCCCCCCCC=C.C1=CC(=O)OC1=O | InChI=1S/C14H28.C4H2O3/c1-3-5-7-9-11-13-14-12-10-8-6-4-2;5-3-1-2-4(6)7-3/h3H,1,4-14H2,2H3;1-2H
